US03991202
1-decyl-3-[2,4-dichloro-β-(2,4-dichlorobenzyloxy)phenethyl]imidazolium bromide;
mp. 90°-94° C., by the reaction of 1-[2,4-dichloro-β-(2,4-dichlorobenzyloxy)phenethyl]imidazole and n-decyl bromide after an overnight reflux.

reactant | 1-[2,4-dichloro-β-(2,4-dichlorobenzyloxy)phenethyl]imidazole | ClC1=C(C(CN2C=NC=C2)OCC2=C(C=C(C=C2)Cl)Cl)C=CC(=C1)Cl | C18H14Cl4N2O
reactant | n-decyl bromide | C(CCCCCCCCC)Br | C10H21Br
product | 1-decyl-3-[2,4-dichloro-β-(2,4-dichlorobenzyloxy)phenethyl]imidazolium bromide | [Br-].C(CCCCCCCCC)[N+]1=CN(C=C1)CC(C1=C(C=C(C=C1)Cl)Cl)OCC1=C(C=C(C=C1)Cl)Cl | InChI=1S/C28H35Cl4N2O.BrH/c1-2-3-4-5-6-7-8-9-14-33-15-16-34(21-33)19-28(25-13-12-24(30)18-27(25)32)35-20-22-10-11-23(29)17-26(22)31;/h10-13,15-18,21,28H,2-9,14,19-20H2,1H3;1H/q+1;/p-1
